US05604229
(1) 2-(4-Octanoylphenyl)ethyl acetate
Aluminum chloride (111.8 g) was added to dichloroethane (500 ml) in a stream of nitrogen and the mixture was stirred at room temperature. Then, phenethyl acetate (91.8 g) and decanoyl chloride (100 g) were dropwise added thereto under ice-cooling and the mixture was stirred at room temperature overnight. The reaction mixture was poured into ice water and extracted with diethyl ether. The ether layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=1:20) to give 61.3 g of the subject compound (yield 38%) as an oily substance.

reactant | Aluminum chloride | 111.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | phenethyl acetate | 91.8 g | C(C)(=O)OCCC1=CC=CC=C1 | C10H12O2
reactant | decanoyl chloride | 100 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | dichloroethane | 500 ml | ClC(C)Cl | C2H4Cl2
product | 2-(4-Octanoylphenyl)ethyl acetate | 61.3 g, yield 38% | C(C)(=O)OCCC1=CC=C(C=C1)C(CCCCCCC)=O | C18H26O3
